data/oMe_Silver.jsonl
{"reaction_id": "NR-120_1-CCCCC_2-c1ccc(F)cc1_3-c1ccc(Cl)cc1","name": "Julia-Kociensky Olefination","level": "medium","reactants_smiles": ["C(CCCCC)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","C(c1ccc(Cl)cc1)=O"],"products_smiles": ["C(c1ccc(Cl)cc1)=C(CCCCC)c1ccc(F)cc1"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[C-](CCCCC)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The strong base deprotonates the α-position to the sulfone, as the negative charge is stabilized by resonance with the electron-withdrawing sulfone group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(Cl)cc1)([O-])C(CCCCC)(c1ccc(F)cc1)S(=O)(=O)c1sc2ccccc2n1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon, favored by polarization of the C=O bond and minimal steric hindrance from c1ccc(Cl)cc1."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1=CC=C2C(=C1)[N-]C3(S2)[S](=O)(c(C(O3)(c1ccc(Cl)cc1))(CCCCC)c1ccc(F)cc1)=O","rationale": "Intramolecular attack by the alkoxide on the heteroaryl ring occurs due to proximity and the electrophilicity of the activated heteroaryl sulfur, forming a cyclic intermediate."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "c1ccc2c(c1)n=c(s2)OC(c1ccc(Cl)cc1)C(CCCCC)(c1ccc(F)cc1)[S](=O)[O-]","rationale": "Heterolytic cleavage of the S–C bond is driven by the stability of the leaving heteroaryl sulfinate anion and relief of ring strain."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(Cl)cc1)=C(CCCCC)c1ccc(F)cc1","rationale": "Base-induced elimination occurs as the β-alkoxy group departs with the sulfinate, forming the thermodynamically favored alkene."}],"description": "Under basic conditions, the sulfone-stabilized carbanion adds to the carbonyl, forming a β-alkoxysulfone intermediate. Subsequent intramolecular rearrangement and fragmentation release the heteroaryl sulfone, driving elimination to yield the alkene via the Julia–Kocienski olefination pathway."}
{"reaction_id": "NR-112_1-Cl_2-F_3-c2ccccc2_4-Br_5-c2ccc(F)cc2","name": "Houben-Hoesch Reaction","level": "medium","reactants_smiles": ["c1c(O)c(Cl)c(F)c(c2ccccc2)c1Br","C(c2ccc(F)cc2)#N"],"products_smiles": ["c1(C(=O)c2ccc(F)cc2)c(O)c(Cl)c(F)c(c2ccccc2)c1Br"],"conditions": "i. ZnCl2, HCl ii. H2O","mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C1(C(=N[Zn])c2ccc(F)cc2)C(=[OH+])c(Cl)c(F)c(c2ccccc2)c1Br","rationale": "ZnCl2 coordinates to the nitrile nitrogen, increasing the electrophilicity of the carbon and enabling nucleophilic attack by the activated aromatic ring via resonance donation from the phenolic OH."},{"step": 2,"type": "elimination","subtype": "proton_elimination","intermediate_smiles": "c1(C(=[NH])c2ccc(F)cc2)c(O)c(Cl)c(F)c(c2ccccc2)c1Br","rationale": "Proton elimination restores aromaticity, a thermodynamically favored process, stabilizing the intermediate through delocalization over the aromatic ring."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(C(=[NH2+])c2ccc(F)cc2)c(O)c(Cl)c(F)c(c2ccccc2)c1Br","rationale": "Acidic conditions protonate the imine nitrogen, making it more susceptible to nucleophilic attack by water in the subsequent hydrolysis step."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c1(C(=O)c2ccc(F)cc2)c(O)c(Cl)c(F)c(c2ccccc2)c1Br","rationale": "Water attacks the protonated imine carbon, and subsequent rearrangement leads to C=O formation, driven by the stability of the aryl ketone product under acidic hydrolysis conditions."}],"description": "Under acidic ZnCl2 catalysis, the phenol activates towards electrophilic attack by a nitrilium ion derived from the nitrile. Subsequent proton transfers and hydrolysis yield the aryl ketone. ZnCl2 coordinates to oxygen/nitrogen, enhancing electrophilicity and stabilizing intermediates."}
